US05310920
A mixture comprising 8.0 g of 1-(2-ethylthiovinyl)-2-nitroiminoimidazolidine, 7.2 g of 2-chloro-5-chloromethylpyridine, 20.0 g of potassium carbonate .and 30 ml of dimethylsulfoxide was stirred at 60° C. for 30 minutes. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried (with anhydrous MgSO) and concentrated to give an oily residue. This was purified by column chromatography silica gel, eluent: ethyl acetate/hexane 4/1) to give 8.3 g of 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(2-ethylthiovinyl)imidazolidine.

reactant | 1-(2-ethylthiovinyl)-2-nitroiminoimidazolidine | 8.0 g | C(C)SC=CN1C(NCC1)=N[N+](=O)[O-] | C7H12N4O2S
reactant | 2-chloro-5-chloromethylpyridine | 7.2 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(2-ethylthiovinyl)imidazolidine | 8.3 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=CSCC)=N[N+](=O)[O-] | C13H16ClN5O2S
